US07582651B2
(2E)-3-{3-cyano-4,6-dimethyl-1-[(1S)-1,2,3,4-tetrahydronaphthalen-1-yl]-1H-pyrrolo[2,3-b]pyridin-2-yl}-N-(3,4-dimethoxyphenyl)prop-2-enamide
To a solution of (2E)-3-{3-cyano-4,6-dimethyl-1-[(1S)-1,2,3,4-tetrahydronaphthalen-1-yl]-1H-pyrrolo[2,3-b]pyridin-2-yl}prop-2-enoic acid (300 mg, 0.808 mmol) in THF (3 ml) were added DMF (0.03 ml) and oxalylchloride (0.0846 ml, 0.970 mmol), the mixture was stirred at room temperature for 1 hour and the solvent was distilled off under reduced pressure. The residue was added under ice-cooling to a solution of 3,4-dimethoxy aniline (248 mg, 1.62 mmol), pyridine (0.262 ml, 3.24 mmol) and THF (3 ml), and the mixture was stirred under ice-cooling for 1 hour and at room temperature for 12 hours. The reaction solution was poured into water and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to give the objective product as a solid material.

reactant | (2E)-3-{3-cyano-4,6-dimethyl-1-[(1S)-1,2,3,4-tetrahydronaphthalen-1-yl]-1H-pyrrolo[2,3-b]pyridin-2-yl}prop-2-enoic acid | 0.808 mmol, 300 mg | C(#N)C1=C(N(C2=NC(=CC(=C21)C)C)[C@H]2CCCC1=CC=CC=C21)/C=C/C(=O)O | C23H21N3O2
reactant | oxalylchloride | 0.970 mmol, 0.0846 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3,4-dimethoxy aniline | 1.62 mmol, 248 mg | COC=1C=C(N)C=CC1OC | C8H11NO2
reactant | pyridine | 3.24 mmol, 0.262 ml | N1=CC=CC=C1 | C5H5N
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | DMF | 0.03 ml | CN(C)C=O | C3H7NO
product | (2E)-3-{3-cyano-4,6-dimethyl-1-[(1S)-1,2,3,4-tetrahydronaphthalen-1-yl]-1H-pyrrolo[2,3-b]pyridin-2-yl}-N-(3,4-dimethoxyphenyl)prop-2-enamide | C(#N)C1=C(N(C2=NC(=CC(=C21)C)C)[C@H]2CCCC1=CC=CC=C21)/C=C/C(=O)NC2=CC(=C(C=C2)OC)OC | C31H30N4O3
